US04315982
2-Hydrazinoquinoline (35.70 g; 0.224 mol) obtained in a customary manner (e.g., as disclosed in J. Chem. Soc., 103, 1978) from 2-chloroquinoline and hydrazine hydrate, 56.29 g (0.149 mol, mol ratio 1.5) of di-p-diethylaminostyryl ketone, 450 ml of ethanol and 74.8 ml of acetic acid were refluxed for 3 hours with stirring. The reaction mixture was cooled with water. The crystals that precipitated were separated by filtration, and hot-filtered using 150 cc of ethanol to afford 27.12 g (yield 35%) of yellow crystals having a melting point of 180° to 182° C. Recrystallization from methyl ethyl ketone afforded crystals having a melting point of 182° to 183° C.

reactant | 2-chloroquinoline | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | hydrazine hydrate | O.NN
reactant | ethanol | 450 ml | C(C)O | C2H6O
solvent | acetic acid | 74.8 ml | C(C)(=O)O | C2H4O2
product | 2-Hydrazinoquinoline | 0.224 mol, 35.70 g | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
